US04107310
Using the procedure of Step A of Example 6, 32.2 g of o-trifluoromethylaniline and 23.44 g of butyryl chloride were reacted to obtain 24.4 g of N-(2-trifluoromethylphenyl)-butanamide melting at 76° C which was used as is for the next step.

reactant | o-trifluoromethylaniline | 32.2 g | FC(C1=C(N)C=CC=C1)(F)F | C7H6F3N
reactant | butyryl chloride | 23.44 g | C(CCC)(=O)Cl | C4H7ClO
product | N-(2-trifluoromethylphenyl)-butanamide | 24.4 g | FC(C1=C(C=CC=C1)NC(CCC)=O)(F)F | C11H12F3NO
